US06632811B2
Synthesis of N-(4-cyanophenyl)alanine iso-butyl ester
Following General Procedure AP above and using 4-fluorobenzonitrile (Aldrich) and D,L-alanine iso-butyl ester hydrochloride (from Example AA above), the title compound was prepared as an oil. The product was recovered by column chromatography on silica gel using 1:5 EtOAc/hexanes as the eluant.

reactant | 4-fluorobenzonitrile | FC1=CC=C(C#N)C=C1 | C7H4FN
reactant | D,L-alanine iso-butyl ester hydrochloride | Cl.C(C(C)C)OC(C(N)C)=O
product | N-(4-cyanophenyl)alanine iso-butyl ester | C(C(C)C)OC([C@@H](NC1=CC=C(C=C1)C#N)C)=O | C14H18N2O2
